US07253165B2
Synthesis of (R)-1-[3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-[(thiophen-2-ylmethyl)-amino]-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(3-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dichloroethane, 2-thiophenemethylamine and ethanol, essentially as described above in Example 57. Purity by LC/MS=100%, [M+H]+=399.

reactant | (R)-6-fluoro-3-(3-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC(=CC=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | 2-thiophenemethylamine | S1C(=CC=C1)CN | C5H7NS
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-[3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-[(thiophen-2-ylmethyl)-amino]-propan-2-ol | FC1=CC2=C(C(=NO2)C=2C=C(OC[C@@H](CNCC=3SC=CC3)O)C=CC2)C=C1 | C21H19FN2O3S
